US06706716B2
8-{2-[4-(2-Fluorophenyl)piperazin-1-yl]ethyl}-8-azaspiro[4.5]decane-7,9-dione
A mixture of 3,3-tetramethylene glutarimide (6.9 mg) and potassium carbonate (40 mg) in dimethylformamide (0.5 mL) was stirred at room temperature for 30 minutes. 1-(2-Chloroethyl)-4-(2-fluorophenyl)piperazine (10.0 mg) was added and the resulting solution was heated at 120° C. for 3 hours. The solvent was removed and the residue was purified by thin-layer chomatography (silica gel, eluting with hexane/ethyl acetate, 1:1), giving the title compound as a white solid (6.2 mg, 40%). 1H NMR (300 MHz, CDCl13) δ7.07-6.87 (m, 4H), 3.96 (t, 2H, J=6.6 Hz), 3.05 (t, 4H, J=4.8 Hz), 2.67 (t, 4H, J=4.7 Hz), 2.59 (s, 4H), 2.54 (t, 4H, J=6.6 Hz), 1.73-1.68 (m, 4H), 1.55-1.50 (m, 4H). ESI-MS m/z 374 (MH+).

reactant | 3,3-tetramethylene glutarimide | 6.9 mg | C1CCC2(C1)CC(=O)NC(=O)C2 | C9H13NO2
reactant | potassium carbonate | 40 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-Chloroethyl)-4-(2-fluorophenyl)piperazine | 10.0 mg | ClCCN1CCN(CC1)C1=C(C=CC=C1)F | C12H16ClFN2
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 8-{2-[4-(2-Fluorophenyl)piperazin-1-yl]ethyl}-8-azaspiro[4.5]decane-7,9-dione | 6.2 mg, 40% | FC1=C(C=CC=C1)N1CCN(CC1)CCN1C(CC2(CCCC2)CC1=O)=O | C21H28FN3O2
